US06362177B1
A mixture of (R)-3-[{N-(2-amino-5-trifluoromethoxybenzoyl)glycyl}amino]pyrrolidine (0.050 mmol), 4-chloro-2-nitrobenzyl chloride (0.050 mmol), piperidinomethylpolystyrene (60 mg), acetonitrile (1.0 mL) and chloroform (0.7 mL) was stirred overnight at 50° C. The reaction mixture was cooled, loaded onto VarianTM SCX column and washed with 50% CHCl3/CH3OH (10 mL) and CH3OH (10 mL). Product was eluted using 2 N NH3 in CH3OH (5 mL) and concentrated. To the resulting material was added ethanol (3 mL) and 10% Pd—C (15 mg), and the mixture was stirred under H2 at room temperature for 1.5 h. Filtration, concentration, and preparative TLC afforded (R)-3-[{N-(2-amino-5-trifluoromethoxybenzoyl)glycyl}amino]-1-(2-amino-4-chlorobenzyl)pyrrolidine (Compound No. 1921) (2.2 mg, 6%): The purity was determined by RPLC/MS (81%); ESI/MS m/e 486.2 (M++H, C21H23ClF3N5O3).

reactant | (R)-3-[{N-(2-amino-5-trifluoromethoxybenzoyl)glycyl}amino]pyrrolidine | 0.050 mmol | NC1=C(C(=O)NCC(=O)N[C@H]2CNCC2)C=C(C=C1)OC(F)(F)F | C14H17F3N4O3
reactant | 4-chloro-2-nitrobenzyl chloride | 0.050 mmol | ClC1=CC(=C(CCl)C=C1)[N+](=O)[O-] | C7H5Cl2NO2
reactant | acetonitrile | 1.0 mL | C(C)#N | C2H3N
solvent | chloroform | 0.7 mL | C(Cl)(Cl)Cl | CHCl3
product | (R)-3-[{N-(2-amino-5-trifluoromethoxybenzoyl)glycyl}amino]-1-(2-amino-4-chlorobenzyl)pyrrolidine | NC1=C(C(=O)NCC(=O)N[C@H]2CN(CC2)CC2=C(C=C(C=C2)Cl)N)C=C(C=C1)OC(F)(F)F | C21H23ClF3N5O3
